US07018988B2
(3EZ,5S)-1-([1,1′-biphenyl]-4-ylcarbonyl)-5-{[(3RS)-3-hydroxypiperidinyl]carbonyl}-3-pyrrolidinone O-methyloxime
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, [1,1′-biphenyl]-4-carbonyl chloride, and (3RS)-3-piperidinol, the title compound was obtained in 78% purity by HPLC. MS(ESI+): m/z=422.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | [1,1′-biphenyl]-4-carbonyl chloride | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | (3RS)-3-piperidinol | N1CC(CCC1)O | C5H11NO
product | (3EZ,5S)-1-([1,1′-biphenyl]-4-ylcarbonyl)-5-{[(3RS)-3-hydroxypiperidinyl]carbonyl}-3-pyrrolidinone O-methyloxime | CON=C1CN([C@@H](C1)C(=O)N1CC(CCC1)O)C(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C24H27N3O4
